US04165378
A mixture of 2-guanidino-4-[2-(3-cyano-2-methylisoureido)ethylthiomethyl]thiazole (1.88 g.) and 30% w/v aqueous methylamine (6.0 ml.) was stirred together at room temperature. After 1 hour 40 minutes water (20 ml.) was added, and stirring was continued for 15 minutes. The white solid (1.265 g.) was collected, washed with water (3 ml.) and dried in vacuo overnight. Recrystallization from aqueous dimethylformamide gave 2-guanidino-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole, m.p. 160°-161.5° C.

reactant | 2-guanidino-4-[2-(3-cyano-2-methylisoureido)ethylthiomethyl]thiazole | 1.88 g | N(C(=N)N)C=1SC=C(N1)CSCCNC(OC)=NC#N | C10H15N7OS2
reactant | methylamine | 6.0 ml | CN | CH5N
solvent | water | 20 ml | O | H2O
product | 2-guanidino-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole | N(C(=N)N)C=1SC=C(N1)CSCCNC(=NC#N)NC | C10H16N8S2
